*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/4.70e-04[uF]/50[V]
* Murata P/N :GCM155R11H471KA01
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R11H471KA01 Port1 Port2
C01 Port1 N01 4.76e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.44e-10
R03 N02 N03 4.11e-01
C04 N03 N04 5.92e-08
R04 N03 N04 2.56e+04
C05 N04 N05 9.35e-08
R05 N04 N05 2.04e+03
C06 N05 N06 7.20e-08
R06 N05 N06 2.18e+02
C07 N06 N07 5.79e-08
R07 N06 N07 2.57e+01
C08 N07 N08 4.74e-08
R08 N07 N08 3.73e+00
C09 N08 N09 3.08e-08
R09 N08 N09 8.76e-01
C10 N09 N10 8.90e-09
R10 N09 N10 4.59e-01
C11 N10 N11 4.13e-09
R11 N10 N11 3.21e-01
C12 N11 N12 6.25e-11
L12 N11 N12 4.82e-11
R12 N11 N12 8.87e-01
C13 N12 Port2 1.92e-12
L13 N12 Port2 1.92e-10
R13 N12 Port2 1.88e+01
.ENDS GCM155R11H471KA01
